US06184242B2
70% Nitric acid (3.16 mL) was added dropwise to a suspension of trifluoromethanesulfonic acid (9.34 mL, 105.6 mmol) in dichloromethane (250 mL). The suspension was cooled in a dry ice-acetone bath and a solution of 4-benzyl-benzoic acid (10.19 g, 48 mmol) in dichloromethane (50 mL) was added dropwise. The mixture was stirred for about 2 hours at−78° C. and an additional 2 hours at room temperature. The reaction mixture was poured into crushed ice. The separated organic layer was washed with dichloromethane (2×) and the combined organic layers were dried over (Na2SO4), and solvents were evaporated. Recrystallization of the crude product from methanollethyl acetate gave 4-(4-nitrobenzyl)-benzoic acid (9.27 g, 58%) as a yellow solid.

reactant | Nitric acid | 3.16 mL | [N+](=O)(O)[O-] | HNO3
reactant | trifluoromethanesulfonic acid | 105.6 mmol, 9.34 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 4-benzyl-benzoic acid | 48 mmol, 10.19 g | C(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C14H12O2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-(4-nitrobenzyl)-benzoic acid | 9.27 g, 58% | [N+](=O)([O-])C1=CC=C(CC2=CC=C(C(=O)O)C=C2)C=C1 | C14H11NO4
